US08058293B2
5-tert-butylthiazol-2-amine
To a solution of 3,3-dimethylbutyraldehyde (10 g, 99.8 mmol) in 200 mL of cyclohexane was added pyrrolidine (8.7 mL, 0.11 mol) followed by p-toluenesulfonic acid monohydrate (0.95 g, 5.0 mmol). This reaction flask was equipped with a Dean-Stark trap and the mixture was warmed to reflux and was allowed to stir for 3 hours. The mixture was cooled to ambient temperature, filtered, and concentrated under reduced pressure. The residue was dissolved in 75 mL of CH3OH, sulfur was added (3.2 g, 99.8 mmol), and the mixture was cooled to 0° C. Cyanamide (4.2 g, 99.8 mmol) was added portion-wise over 10 minutes and the mixture was allowed to warm to ambient temperature and stir for 18 hours. The reaction mixture was concentrated under reduced pressure and purified by column chromatography (SiO2, ethyl acetate then 10% methanol in ethyl acetate) to afford the title compound. MS (DCI/NH3) m/z 157 (M+H)+.

reactant | 3,3-dimethylbutyraldehyde | 99.8 mmol, 10 g | CC(CC=O)(C)C | C6H12O
reactant | pyrrolidine | 0.11 mol, 8.7 mL | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 5.0 mmol, 0.95 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Cyanamide | 99.8 mmol, 4.2 g | N#CN | CH2N2
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
product | 5-tert-butylthiazol-2-amine | C(C)(C)(C)C1=CN=C(S1)N | C7H12N2S
